US07868188B2
N-[4-Methyl-5-(6-phenylsulfonylamino-pyridin-2-yl)-1,3-thiazol-2-yl]acetamide
Benzenesulfonyl chloride (0.77 mL) was added to a stirred mixture of N-[5-(6-aminopyridin-2-yl)-4-methyl-1,3-thiazol-2-yl]acetamide (249 mg) and pyridine (10 mL) and the reaction mixture was stirred at room temperature for 30 minutes. The resultant mixture was poured into isohexane (400 mL). The supernatant liquid was decanted from a residual gum. A 7M methanolic ammonia solution (20 mL) was added to the residual gum and the mixture was stirred at room temperature for 1 hour. The resultant mixture was evaporated and the residue was purified by preparative HPLC. There was thus obtained the title compound (296 mg); 1H NMR Spectrum: (DMSO-d6) 2.18 (s, 3H), 2.44 (s, 3H), 6.83 (d, 1H), 7.20 (d, 1H), 7.62 (m, 3H), 7.70 (t, 1H), 8.03 (d, 2H), 11.17 (br s, 1H), 12.12 (s, 1H); Mass Spectrum: M+H+ 389.

reactant | Benzenesulfonyl chloride | 0.77 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N-[5-(6-aminopyridin-2-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 249 mg | NC1=CC=CC(=N1)C1=C(N=C(S1)NC(C)=O)C | C11H12N4OS
reactant | isohexane | 400 mL | CCCC(C)C | C6H14
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-Methyl-5-(6-phenylsulfonylamino-pyridin-2-yl)-1,3-thiazol-2-yl]acetamide | 296 mg | CC=1N=C(SC1C1=NC(=CC=C1)NS(=O)(=O)C1=CC=CC=C1)NC(C)=O | C17H16N4O3S2
